US08455477B2
To a solution of 4-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]ethynyl}pyridin-2-amine (8.3 mg, 0.024 mmol) in ethanol (1 ml) was added palladium hydroxide on carbon (8 mg, 5.70 μmmol, 20 wt %). The reaction system was placed under an atmosphere of hydrogen (balloon) and stirred at ambient temperature for 7 hours. The mixture was filtered through a 45 min syringe filter and washed with EtOH. The filtrate was concentrated and the residue was purified by preparative HPLC reverse phase (C-18), eluting with acetonitrile/water+0.05% TFA. The fractions containing product were combined and diluted in ethyl acetate, then washed with aqueous sodium bicarbonate and dried over sodium sulfate. The solution was filtered and concentrated under reduced pressure to afford 4-{2-[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]ethyl}pyridin-2-amine 1H NMR (500 MHz, CDCl3) δ 8.18 (s, 1H), 7.87 (d, 1H), 7.73 (s, 1H), 7.56-7.63 (m, 2H), 6.54 (d, 1H), 6.39 (s, 1H), 6.36 (s, 1H), 5.18 (br s, 2H), 3.97 (s, 6H), 3.15 (t, 2H), 2.86 (t, 2H). LRMS (ESI) calculated for C19H21N6O [M+H]+, 349.2; found 349.1.

reactant | 4-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]ethynyl}pyridin-2-amine | 0.024 mmol, 8.3 mg | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C#CC2=CC(=NC=C2)N | C19H16N6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 8 mg | [OH-].[OH-].[Pd+2]
product | 4-{2-[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]ethyl}pyridin-2-amine | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2CCC2=CC(=NC=C2)N | C19H20N6O
